US07049342B2
Benzyl 2-[5-[1-(2-ethoxycarbonyl)butenyl]-2-methoxyphenyl]acetate
Benzyl 2-methylthio-2-[5-[1-(2-ethoxycarbonyl)butenyl]-2-methoxyphenyl]acetate (2.14 g, 4.99 mmol) and glacial acetic acid (100 mL) were mixed and zinc powder (13.0 g, 199 mmol) was added under stirring at room temperature. After stirring for 6 hours at room temperature, the insolubles were remove by filtration and the filtrate was concentrated. The residue was dissolved into ethyl acetate (50 mL), washed with water and brine, then dried over anhydrous sodium sulfate and concentrated to afford 1.86 g (97%) of the title compound as a pale yellow oil.

reactant | Benzyl 2-methylthio-2-[5-[1-(2-ethoxycarbonyl)butenyl]-2-methoxyphenyl]acetate | 4.99 mmol, 2.14 g | CSC(C(=O)OCC1=CC=CC=C1)C1=C(C=CC(=C1)C(=CCC)C(=O)OCC)OC | C24H28O5S
catalyst | zinc | 199 mmol, 13.0 g | [Zn] | Zn
solvent | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
product | Benzyl 2-[5-[1-(2-ethoxycarbonyl)butenyl]-2-methoxyphenyl]acetate | 1.86 g, 97% | CCOC(=O)C(=CCC)C=1C=CC(=C(C1)CC(=O)OCC1=CC=CC=C1)OC | C23H26O5
